US07846960B2
To a solution of 4-methyl-2-oxo-pentanoic acid methyl ester (3.8 g, 26 mmol) in N,N-dimethylformamide dimethyl acetal (7 mL, 52 mmol) is added p-toluenesulfonic acid monohydrate (30 mg) and the mixture is stirred at 80° C. overnight. The reaction mixture is concentrated under reduced pressure to give 3-isopropyl-4-dimethylamino-2-oxo-but-3-enoic acid ethyl ester as an orange oil. To a solution of 3-isopropyl-4-dimethylamino-2-oxo-but-3-enoic acid ethyl ester and 2,6-dichlorophenylhydrazine hydrochloride (2.8 g, 13 mmol) in EtOH (40 mL) is added concentrated HCl (0.5 mL). The mixture is stirred at ambient temperature for 2 h followed by refluxing overnight. The reaction mixture is concentrated and the residue is partitioned between EtOAc and 1N HCl. The organic phase is dried (Na2SO4) and concentrated to a residue. The residue is purified by column chromatography (0-15% EtOAc in hexanes) to give the title compound as an oil (2.2 g, 52%). 1H NMR (CDCl3): δ 7.76 (s, 1H), 7.43 (d, 2H), 7.34 (dd, 1H), 3.75 (s, 3H), 3.48 (m, 1H), 1.32 (d, 6H).

reactant | 4-methyl-2-oxo-pentanoic acid methyl ester | 26 mmol, 3.8 g | COC(C(CC(C)C)=O)=O | C7H12O3
reactant | N,N-dimethylformamide dimethyl acetal | 52 mmol, 7 mL | COC(N(C)C)OC | C5H13NO2
reactant | p-toluenesulfonic acid monohydrate | 30 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3-isopropyl-4-dimethylamino-2-oxo-but-3-enoic acid ethyl ester | C(C)OC(C(C(=CN(C)C)C(C)C)=O)=O | C11H19NO3
